*Buck Converter - CCM Mode (L1=100u, for DCM/CCM comparison)
*Same as buck.cir except: L1=100u and Cgnd (convergence aid)

Vin in 0 12

*=== PWM Drive ===
Vpwm pwm 0 PULSE(0 12 0 10n 10n 5u 10u)

*=== Bootstrap Circuit ===
*Vcc supplies bootstrap capacitor through diode Db
Vcc vcc 0 12
Db vcc boot D
*Bootstrap capacitor: bottom plate tied to sw node
Cb boot sw 100n
*DC path for boot node (avoid floating node in .op analysis)
Rboot boot 0 1meg

*=== Gate Driver (models bootstrap-driven driver chip) ===
*Bootstrap keeps Vgs constant: Vgs = Vboot-Vsw = ~11.5V when PWM high
*Driver output = V(sw) + Vgs_drive, independent of V(boot) to avoid feedback loop
B1 drv 0 V=V(sw)+if(V(pwm)>6, 11.5, 0)
*Driver output impedance (like a real driver chip)
Rg drv gate 10
*Gate capacitance (real MOSFET has Cgs)
Cg gate sw 1n
*Convergence aid (only in CCM version): breaks algebraic loop sw->gate->sw
Cgnd gate 0 1n

*=== Power Stage ===
*NMOS Switch - Drain to Vin, Source to sw node
M1 in gate sw 0 NMOS
*Freewheeling Diode - Cathode to sw, Anode to GND
D1 0 sw D
*DC path for sw node (avoid floating node in .op analysis)
Rsw sw 0 10meg
*Inductor - sw node to output (larger value to enter CCM)
L1 sw out 100u
*Output Capacitor
C1 out 0 100u
*Load Resistor
R1 out 0 10

*=== Models ===
.MODEL NMOS NMOS(VTO=2 KP=10)
.MODEL D D(IS=1e-12)
*.MODEL SW1 SW(Ron=1m Roff=1meg Vt=0.5)

*Transient Analysis
.tran 10ms

*=== Diagnosis Measurements ===
*Output voltage (steady state average)
.meas Vout_avg AVG V(out) TRIG time=5ms TARG time=10ms
*Input voltage
.meas Vin_avg AVG V(in) TRIG time=5ms TARG time=10ms
*Switch node: max = MOSFET on, min = diode conducting
.meas Vsw_max MAX V(sw) TRIG time=5ms TARG time=10ms
.meas Vsw_min MIN V(sw) TRIG time=5ms TARG time=10ms
*Gate-Source drive voltage of high-side NMOS
.meas Vgs_max MAX V(gate)-V(sw) TRIG time=5ms TARG time=10ms
*Bootstrap voltage (boot node, should reach ~23V when high-side on)
.meas Vboot_max MAX V(boot) TRIG time=5ms TARG time=10ms
*Bootstrap voltage minimum (in CCM should return to ~12V, in DCM stays high)
.meas Vboot_min MIN V(boot) TRIG time=5ms TARG time=10ms
*Inductor current mode (CCM if IL_min > 0)
.meas IL_min MIN I(L1) TRIG time=5ms TARG time=10ms
.meas IL_max MAX I(L1) TRIG time=5ms TARG time=10ms
*Average diode current
.meas ID1_avg AVG I(D1) TRIG time=5ms TARG time=10ms

.end
